US08058045B2
5-Chloro-4-morpholinopyridin-2-amine (68 mg, 0.31 mmol), 4-bromo-cyanopyrazine (30 mg, 0.20 mmol), sodium Pert-butoxide (45 mg, 0.47 mmol), Pd(OAc)2 (3 mg, 0.01 mmol) and BINAP (0.030 g, 0.05 mmol) were mixed under argon atmosphere before addition of mixture of DMF in toluene (2:1, 0.7 mL). The reaction mixture was heated to 140° C. by microwave irradiation for 20 minutes. The reaction mixture was purified by ion exchange chromatography on SCX-II acidic resin (500 mg) eluting with methanol, then 2M ammonia-methanol. The basic fractions were combined and solvent was evaporated. Flash chromoatography on silica, eluting with ethyl acetate-hexane (1:1) gave 5-(5-chloro-4-morpholinopyridin-2-ylamino)pyrazine-2-carbonitrile as a yellow solid (20 mg, 20%).

reactant | 5-Chloro-4-morpholinopyridin-2-amine | 0.31 mmol, 68 mg | ClC=1C(=CC(=NC1)N)N1CCOCC1 | C9H12ClN3O
reactant | 4-bromo-cyanopyrazine | 0.20 mmol, 30 mg | BrN1CC(=NC=C1)C#N | C5H4BrN3
reactant | sodium | [Na] | Na
reactant | butoxide | 0.47 mmol, 45 mg | [O-]CCCC
reactant | BINAP | 0.05 mmol, 0.030 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 0.7 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.01 mmol, 3 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-(5-chloro-4-morpholinopyridin-2-ylamino)pyrazine-2-carbonitrile | 20 mg, 20% | ClC=1C(=CC(=NC1)NC=1N=CC(=NC1)C#N)N1CCOCC1 | C14H13ClN6O
